US08034939B2
1-{3-H-imidazo[4,5-c]pyridin-2-yl}-3,4-dihydro-2H-pyrido[2,1-a]-isoindole-6-one
4 g of pyridine-3,4-diamine and 9.5 g of 5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid are introduced into a 250 ml round-bottomed flask, followed by 45 g of polyphosphoric acid (PPA). The solid mixture is heated to 210° C. in an oil bath. During the reaction, the transient formation of 2-{4-(3H-imidazo[4,5-c]pyridin-2-yl)butyl}isoindole-1,3-dione is noted. After heating for 16 hours, the reaction is complete. After cooling, the reaction mixture is taken up in water. The impurities are eliminated by extraction with ethyl acetate. The aqueous phase is neutralized (pH 7) with 2N sodium hydroxide. The product is recovered after 6 successive extractions with a mixture of ethyl acetate and methanol (9/1 by volume). After purification by flash chromatography silica, elution being carried out with a mixture of dichloromethane and methanol (95/5 by volume), 1.46 g of 1-{3-H-imidazo[4,5-c]pyridin-2-yl}-3,4-dihydro-2H-pyrido[2,1-a]isoindole-6-one are obtained in the form of a white solid, the characteristics of which are as follows:

reactant | pyridine-3,4-diamine | 4 g | N1=CC(=C(C=C1)N)N | C5H7N3
reactant | 5-(1,3-dioxo-1,3-dihydroisoindol-2-yl)pentanoic acid | 9.5 g | O=C1N(C(C2=CC=CC=C12)=O)CCCCC(=O)O | C13H13NO4
reactant | 2-{4-(3H-imidazo[4,5-c]pyridin-2-yl)butyl}isoindole-1,3-dione | N1=C(NC=2C=NC=CC21)CCCCN2C(C1=CC=CC=C1C2=O)=O | C18H16N4O2
solvent | water | O | H2O
product | 1-{3-H-imidazo[4,5-c]pyridin-2-yl}-3,4-dihydro-2H-pyrido[2,1-a]-isoindole-6-one | N1=C(NC=2C=NC=CC21)C=2CCCN1C2C2=CC=CC=C2C1=O | C18H14N4O
